US05011998
N-(4-Chlorophenyl)-N-phenyl-benzenemethanamine
Chloro-4-(phenylmethoxy)benzene (2.18 g, 0.010 mol) and N-(phenylmethylene)benzenamine (1.81 g, 0.010 mol) were reacted in Na/DMF (1 g: 50 mL) at 50° C. for 7 hrs. The reaction was followed by HPLC to about 90% conversion. This technique indicated among other things the presence of the title compound, benzyldiphenylamine, and some unknown material in a ratio 65:18:17. Similar aqueous workup as for the preparation of benzyldiphenylamine and chromatography on silica gave 0.50 g of the title compound mp 94-5° C. from methanol (lit mp 97-7.5° C. 70% yield. This material is contaminated with a small amount of diphenylbenzylamine. 1H NMR (200 MHz, CDCl3)δ (assignment): 5.03 (s, 2H, Ph2NCH2Ph), 6.96-7.38 (m, 14H, aromatic). MS [m/e (70 eV, % of base peak)] C19H16ClN 293 (M+., 52.8), 295 (M+. +2, 28.8), 202 (M+. --C7H7+, 22), 167 (C6H4NPh)+., 48.3), 91 (C7H7+, 100). FTIR (CDCl3): 3066, 3033, 1589, 1494, 1454 cm-1.

reactant | Chloro-4-(phenylmethoxy)benzene | 0.010 mol, 2.18 g | ClC1=CC=C(C=C1)OCC1=CC=CC=C1 | C13H11ClO
reactant | N-(phenylmethylene)benzenamine | 0.010 mol, 1.81 g | C1(=CC=CC=C1)C=NC1=CC=CC=C1 | C13H11N
reactant | benzyldiphenylamine | C(C1=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=CC=C1 | C19H17N
product | N-(4-Chlorophenyl)-N-phenyl-benzenemethanamine | ClC1=CC=C(C=C1)N(CC1=CC=CC=C1)C1=CC=CC=C1 | C19H16ClN
